US08202873B2
2-{4-[3′-(2-Fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-ylmethyl]-pyrazol-1-yl}-ethanol hydrochloride
Dissolve 3′-(2-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.213 g, 0.825 mmol) in DCE (5 mL). Add 1-(2-hydroxy-ethyl)-1H-pyrazole-4-carbaldehyde (0.137 g, 0.990 mmol) followed by sodium triacetoxyborohydride (0.262 g, 1.24 mmol) and stir at ambient temperature for 18 hr. Add additional 1-(2-hydroxy-ethyl)-1H-pyrazole-4-carbaldehyde (0.093 g, 0.663 mmol) and stir at ambient temperature for 18 hr. Purify via SCX chromatography followed by silica gel chromatography, (eluting with 100:0 to 0:100 hexanes:ethyl acetate, then 10:90 methanol:ethyl acetate), to give the free base of the title compound (116 mg, 37%). Dissolve the free base (0.114 g, 0.298 mmol) in methanol and add a solution of ammonium chloride (0.016 g, 0.298 mmol) in a minimal volume of methanol. Shake for 18 hr. at ambient temperature and concentrate to give the title compound (125 mg, 100%). MS (ES): m/z=383[M+H]+.

reactant | 3′-(2-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.825 mmol, 0.213 g | FC1=C(C=CC=C1)C=1C(=NC=CN1)N1CCNCC1 | C14H15FN4
reactant | 1-(2-hydroxy-ethyl)-1H-pyrazole-4-carbaldehyde | 0.990 mmol, 0.137 g | OCCN1N=CC(=C1)C=O | C6H8N2O2
reactant | sodium triacetoxyborohydride | 1.24 mmol, 0.262 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1-(2-hydroxy-ethyl)-1H-pyrazole-4-carbaldehyde | 0.663 mmol, 0.093 g | OCCN1N=CC(=C1)C=O | C6H8N2O2
reactant | DCE | 5 mL | ClCCCl | C2H4Cl2
product | 2-{4-[3′-(2-Fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-ylmethyl]-pyrazol-1-yl}-ethanol hydrochloride | 116 mg, 37% | Cl.FC1=C(C=CC=C1)C=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1)CCO | InChI=1S/C20H23FN6O.ClH/c21-18-4-2-1-3-17(18)19-20(23-6-5-22-19)26-9-7-25(8-10-26)14-16-13-24-27(15-16)11-12-28;/h1-6,13,15,28H,7-12,14H2;1H
